US07501411B2
Step 2: 1-[4-(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-phenyl]-piperazin-2-one
A solution of 4-[4-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-phenyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (0.252 mg, 0.6 mmol) in 2:1 DCM:TFA (4.8 mL) is stirred for 1 hour at room temperature. The mixture is then diluted with DCM and basified with sat. NaHCO3. The aqueous layer is extracted with DCM (3×) and the organic layers are combined, dried over MgSO4, filtered and concentrated to afford the title compound as a solid (180 mg, 78%).

reactant | 4-[4-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-phenyl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 0.6 mmol, 0.252 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)Br)N=CN2)=O | C20H22BrN7O3
reactant | TFA | 4.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-[4-(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-phenyl]-piperazin-2-one | 180 mg, 78% | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2C(CNCC2)=O | C15H14BrN7O
